US08975254B2
b) (R)-3-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)butan-2-yl)-1H-pyrazole-5-carboxamide
(R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (300 mg, 1.1 mmol) was coupled with 3-acetyl-1H-pyrazole-5-carboxylic acid (202 mg, 1.3 mmol) using the method of Example 34(d). Crude product was purified by CombiFlash (column: C-18 silica, eluent: 0-100% MeCN in water) to obtain 225 mg (50%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 0.90 (t, 3H), 1.43-1.65 (m, 2H), 2.49 (s, 3H), 4.22-4.41 (m, 3H), 6.91 (d, 1H), 7.32 (s, 1H), 7.79 (d, 1H), 7.86-8.05 (m, 3H), 8.38 (d, 1H), 14.1 (bs, 1H).

reactant | (R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.1 mmol, 300 mg | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)CC | C14H15ClN4
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 1.3 mmol, 202 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
product | (R)-3-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)butan-2-yl)-1H-pyrazole-5-carboxamide | 225 mg, 50% | C(C)(=O)C1=NNC(=C1)C(=O)N[C@@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)CC | C20H19ClN6O2
